* e:\internship_esim_work_june\twobit\twobit.cir

.include NMOS-180nm.lib
.include PMOS-180nm.lib
v1 net-_r3-pad2_ gnd  dc 5
r3  net-_m5-pad1_ net-_r3-pad2_ 1k
r1  net-_m1-pad1_ net-_m5-pad1_ 2k
r4  net-_m2-pad1_ net-_m1-pad1_ 2k
r5  net-_m10-pad3_ net-_m2-pad1_ 2k
r2  gnd net-_m10-pad3_ 1k
m7 net-_m1-pad3_ net-_m1-pad2_ net-_m5-pad1_ net-_m5-pad1_ CMOSP W=0.9u L=0.18u M=1
m8 net-_m1-pad3_ a0 net-_m1-pad1_ net-_m1-pad1_ CMOSP W=0.9u L=0.18u M=1
m9 net-_m10-pad1_ net-_m1-pad2_ net-_m2-pad1_ net-_m2-pad1_ CMOSP W=0.9u L=0.18u M=1
m10 net-_m10-pad1_ a0 net-_m10-pad3_ net-_m10-pad3_ CMOSP W=0.9u L=0.18u M=1
m6 net-_m1-pad2_ a0 net-_m6-pad3_ net-_m6-pad3_ CMOSP W=0.9u L=0.18u M=1
m13 vout net-_m12-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSP W=0.9u L=0.18u M=1
m14 vout a1 net-_m10-pad1_ net-_m10-pad1_ CMOSP W=0.9u L=0.18u M=1
m5 net-_m5-pad1_ a0 net-_m1-pad3_ net-_m1-pad3_ CMOSN W=0.36u L=0.18u M=1
m1 net-_m1-pad1_ net-_m1-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=0.36u L=0.18u M=1
m2 net-_m2-pad1_ a0 net-_m10-pad1_ net-_m10-pad1_ CMOSN W=0.36u L=0.18u M=1
m3 net-_m10-pad3_ net-_m1-pad2_ net-_m10-pad1_ net-_m10-pad1_ CMOSN W=0.36u L=0.18u M=1
m11 net-_m1-pad3_ a1 vout vout CMOSN W=0.36u L=0.18u M=1
m12 net-_m10-pad1_ net-_m12-pad2_ vout vout CMOSN W=0.36u L=0.18u M=1
m4 net-_m1-pad2_ a0 gnd gnd CMOSN W=0.36u L=0.18u M=1
m15 net-_m12-pad2_ a1 gnd gnd CMOSN W=0.36u L=0.18u M=1
m16 net-_m12-pad2_ a1 net-_m16-pad3_ net-_m16-pad3_ CMOSN W=0.36u L=0.18u M=1
v3 net-_m6-pad3_ gnd  dc 5
v5 net-_m16-pad3_ gnd  dc 5
v2  a0 gnd pulse(0 5 0.00000000000001 0.00000000000001 0.00000000000001   0.00000005    0.0000001)
v4  a1 gnd pulse(0 5 0.00000000000001 0.00000000000001 0.00000000000001 0.0000001  0.0000002)
* u1  a0 plot_v1
* u2  a1 plot_v1
* u3  vout plot_v1
.tran 50e-09 200e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(a0)
plot v(a1)
plot v(vout)
.endc
.end
